US07935702B2
P. 7-[6-Morpholin-4-yl-4-(trifluoromethyl)pyridazin-3-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-1,8-naphthyridin-4-amine (compound 19)
Place CsF (50 mg, 0.33 mmol) in an empty flask. Dissolve 7-[6-chloro-4-(trifluoromethyl)pyridazin-3-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-1,8-naphthyridin-4-amine (19 mg, 0.04 mmol) in N,N-dimethylacetamide (0.2 mL) and add to the CsF. Next, add a solution of morpholine (0.2M toluene, 0.24 mL) and DMSO (0.2 mL). Heat the mixture overnight at 80° C. Cool to room temperature and add EtOAc (1 mL) and sat. NaHCO3 (aq) (1 mL). Extract the organic layer and place directly on an SCX ion-exchange column. First, wash the column with EtOAc/MeOH (90/10). Discard this solution. Wash the column with EtOAc/MeOH/N(Et)3 (90/10/5). Collect and evaporate the wash to yield the title compound. 1H NMR (CDCl3) δ 9.59 (s, 1H), 9.43 (br s, 1H), 9.10 (d, 1H), 8.90 (d, 1H), 8.72 (br s, 1H), 7.90 (dd, 1H), 7.30 (s, 1H), 7.15 (d, 1H), 3.93 (m, 2H), 3.89 (m, 2H). LC/MS (MH+) 523.01. The IC50 determined as described in Example 6 is less than 1 micromolar.

reactant | CsF | 0.33 mmol, 50 mg | [F-].[Cs+]
reactant | 7-[6-chloro-4-(trifluoromethyl)pyridazin-3-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-1,8-naphthyridin-4-amine | 0.04 mmol, 19 mg | ClC1=CC(=C(N=N1)C1=CC=C2C(=CC=NC2=N1)NC1=NC=C(C=C1)C(F)(F)F)C(F)(F)F | C19H9ClF6N6
reactant | morpholine | 0.2M, 0.24 mL | N1CCOCC1 | C4H9NO
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylacetamide | 0.2 mL | CN(C(C)=O)C | C4H9NO
solvent | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
solvent | DMSO | 0.2 mL | CS(=O)C | C2H6OS
product | 7-[6-Morpholin-4-yl-4-(trifluoromethyl)pyridazin-3-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]-1,8-naphthyridin-4-amine | N1(CCOCC1)C1=CC(=C(N=N1)C1=CC=C2C(=CC=NC2=N1)NC1=NC=C(C=C1)C(F)(F)F)C(F)(F)F | C23H17F6N7O
